US06747023B1
1-tert-Butoxycarbonyl-4-((6-chloronaphthalen-2-yl)sulfonyl]-2-ethoxycarbonylpiperazine
In methanol (1000 ml), 1-[(6-chloronaphthalen-2-yl)sulfonyl]-3-[ethoxycarbonyl]piperazine hydrochloride (WO96/10022) (43.0 g) was dissolved, followed by the addition of triethylamine (17.1 ml) and di-tert-butyl dicarbonate (27.0 g). The resulting mixture was stirred at room temperature for 3 hours. The residue obtained by concentration of the reaction mixture under reduced pressure was added with ethyl acetate and the resulting mixture was washed with 1N hydrochloric acid. The organic layer thus extracted was dried over anhydrous sodium sulfate. The residue obtained by distilling off the solvent under reduced pressure was purified by chromatography on a silica gel column (hexane ethyl acetate=8:1), whereby the title compound (46.0 g, 93%) was obtained as a colorless solid.

reactant | 1-[(6-chloronaphthalen-2-yl)sulfonyl]-3-[ethoxycarbonyl]piperazine hydrochloride | 43.0 g | Cl.ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CC(NCC1)C(=O)OCC
reactant | triethylamine | 17.1 ml | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 27.0 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | 1000 ml | CO | CH4O
product | 1-tert-Butoxycarbonyl-4-((6-chloronaphthalen-2-yl)sulfonyl]-2-ethoxycarbonylpiperazine | C(C)(C)(C)OC(=O)N1C(CN(CC1)S(=O)(=O)C1=CC2=CC=C(C=C2C=C1)Cl)C(=O)OCC | C22H27ClN2O6S
